US06320050B1
A solution of (4-chloro-phenyl)-acetic acid (6.29 g, 0.03 mol) in ethanol (38.4 mL) was treated with a catalytic amount of sulfuric acid. The reaction mixture was refluxed for 12 h. The reaction was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded (4-chloro-phenyl)-acetic acid ethyl ester (6.45 g, 88%) as a pale yellow solid: mp 39-41° C.; EI-HRMS m/e calcd for C10H11ClO2 (M+) 198.0448, found 198.0452.

reactant | (4-chloro-phenyl)-acetic acid | 0.03 mol, 6.29 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 38.4 mL | C(C)O | C2H6O
product | (4-chloro-phenyl)-acetic acid ethyl ester | 6.45 g, 88% | C(C)OC(CC1=CC=C(C=C1)Cl)=O | C10H11ClO2
